US08957203B2
HATU (7.60 g, 20.00 mmol) was added to a solution of (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (7.86 g, 19.05 mmol), (1R,2S)-1-amino-N-((1-methylcyclopropyl)sulfonyl)-2-vinylcyclopropanecarboxamide HCl (5.62 g, 20 mmol), and Hunig's Base (13.31 mL, 76 mmol) in DCM (110 mL). The reaction mixture was stirred at rt for 16 h. The reaction was washed with 1N HCl (3×), and then brine. The organic layer was collected, dried over sodium sulfate, and concentrated under vacuum. The crude material was purified by silica gel chromatography using a gradient of 20-60% Acetone in hexanes. The product fractions were collected and the solvent removed under vacuum to give tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate (9 g, 74.0% yield) as a light orange foam. MS: MS m/z 639.3 (M++1).

reactant | HATU | 20.00 mmol, 7.60 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 19.05 mmol, 7.86 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
reactant | (1R,2S)-1-amino-N-((1-methylcyclopropyl)sulfonyl)-2-vinylcyclopropanecarboxamide HCl | 20 mmol, 5.62 g | Cl.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1(CC1)C
reactant | Hunig's Base | 76 mmol, 13.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 110 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | 9 g, 74.0% yield | O[C@@H]1C[C@H](N(C1)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O | C31H50N4O8S
